US04029683
To a suspension of 0.43 g. (1.4 millimols) of bis (salicylaldehydate) copper in 10 ml. methanol was added dropwise a solution of 1.1 g. (3.0 millimols) of (R)-2-amino-1,1-di(2-methoxyphenyl)-3-phenyl-1-propanol {[α]D +42.3° (c 1.1, chloroform)} in 10 ml. of methanol. The addition was carried out under thorough stirring at room temperature. The period of the addition was one hour and the reaction mixture was stirred for another one hour. The resulting solids were collected by filtration, washed with methanol and dried under reduced pressure to give a mononuclear complex of (R)-N-salicylidene-2-amino-1,1-di(2-methoxyphenyl)-3-phenyl-1-propanol as grayish blue crystals. Yield, 0.75 g. (58%), [α]546, +860° (c 0.065, benzene), melting point: 205° - 206° C. (decomposed).

reactant | (R)-2-amino-1,1-di(2-methoxyphenyl)-3-phenyl-1-propanol | 3.0 millimols | N[C@@H](C(O)(C1=C(C=CC=C1)OC)C1=C(C=CC=C1)OC)CC1=CC=CC=C1 | C23H25NO3
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | copper | [Cu] | Cu
solvent | methanol | CO | CH4O
product | (R)-N-salicylidene-2-amino-1,1-di(2-methoxyphenyl)-3-phenyl-1-propanol | C(C=1C(O)=CC=CC1)=N[C@@H](C(O)(C1=C(C=CC=C1)OC)C1=C(C=CC=C1)OC)CC1=CC=CC=C1 | C30H29NO4
